US06750251B2
(d) N,N′-Bis(2-aminoethyl)-1,6-diaminohexane tetrahydrochloride
A mixture of N,N′-bis(2′-tritylaminoethyl)-1,6-diaminohexane (1.0 g 1.45 mmol) and 6 M HCl (30 ml) was refluxed for 3 h. Then the mixture was filtered and the filtrate was concentrated to about 3 ml over vacuo. Addition of methanol into the concentrated solution afforded a white salt.

reactant | N,N′-bis(2′-tritylaminoethyl)-1,6-diaminohexane | 1.45 mmol, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCNCCCCCCNCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H54N4
reactant | HCl | 6 M, 30 ml | Cl | ClH
product | N,N′-Bis(2-aminoethyl)-1,6-diaminohexane tetrahydrochloride | Cl.Cl.Cl.Cl.NCCNCCCCCCNCCN | InChI=1S/C10H26N4.4ClH/c11-5-9-13-7-3-1-2-4-8-14-10-6-12;;;;/h13-14H,1-12H2;4*1H
